US04052387
Methyl 7-phthalimido-3-methylenecepham-4-carboxylate 1-oxide (from azetidinone sulfinic acid)
The same procedure was followed as that described in Example 1 (J) above except 0.20 g. of methyl 3-methyl-2-(2-sulfino-4-oxo-3-phthalimido-1-azetidinyl)-3-butenoate was employed as the starting material instead of the sulfinyl chloride. The procedure provided 0.03 g. of the title compound.

reactant | methyl 3-methyl-2-(2-sulfino-4-oxo-3-phthalimido-1-azetidinyl)-3-butenoate | CC(C(C(=O)OC)N1C(C(C1=O)N1C(C=2C(C1=O)=CC=CC2)=O)S(=O)O)=C | C17H16N2O7S
reactant | sulfinyl chloride | S(=O)(Cl)Cl | Cl2OS
product | Methyl 7-phthalimido-3-methylenecepham-4-carboxylate 1-oxide | C1(C=2C(C(N1C1[C@@H]3N(C(C(CS3=O)=C)C(=O)OC)C1=O)=O)=CC=CC2)=O | C17H14N2O6S
